US04064258
The mixture containing 0.065 mole of 4-methylbicyclo[2.2.2]oct-1-yl methanol tosylate, 0.1 mole of sodium cyanide, and 100 ml. of dimethyl sulfoxide is stirred at 70° C for 4 hours and then poured into 500 ml. of methylene chloride. The organic phase is then washed four times with water, separated and dried with anhydrous magnesium sulfate and filtered. The filtrate is then evaporated under vacuum affording an oil which is then chromatographed on silica gel eluting with 10% ethyl acetate-90%, vol., hexane affording 4-methylbicyclo[2.2.2]oct-1-yl acetonitrile.

reactant | 4-methylbicyclo[2.2.2]oct-1-yl methanol tosylate | 0.065 mole | S(=O)(=O)(C1=CC=C(C)C=C1)OCC12CCC(CC1)(CC2)C | C17H24O3S
reactant | sodium cyanide | 0.1 mole | [C-]#N.[Na+]
reactant | dimethyl sulfoxide | CS(=O)C | C2H6OS
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-methylbicyclo[2.2.2]oct-1-yl acetonitrile | CC12CCC(CC1)(CC2)CC#N | C11H17N
